US07696216B2
1-[2-(3,5-Dimethoxy-phenyl)-ethyl]-4-(4-isopropyl-phenyl)-6-prop-2-ynyloxy-1H-quinazolin-2-one
A solution of 15 mg (33 μmol) {2-[2-(3,5-dimethoxy-phenyl)-ethylamino]-5-prop-2-ynyloxy-phenyl}-(4-isopropyl-phenyl)-methanone and 2.1 mg (33 μmol) NaOCN in 300 μl acetic acid is stirred for 1 h at rt. The solvent is evaporated and the product is recrystallised from CH2Cl2/diethyl ether.

reactant | {2-[2-(3,5-dimethoxy-phenyl)-ethylamino]-5-prop-2-ynyloxy-phenyl}-(4-isopropyl-phenyl)-methanone | 33 μmol, 15 mg | COC=1C=C(C=C(C1)OC)CCNC1=C(C=C(C=C1)OCC#C)C(=O)C1=CC=C(C=C1)C(C)C | C29H31NO4
reactant | NaOCN | 33 μmol, 2.1 mg | O([Na])C#N
solvent | acetic acid | 300 μl | C(C)(=O)O | C2H4O2
product | 1-[2-(3,5-Dimethoxy-phenyl)-ethyl]-4-(4-isopropyl-phenyl)-6-prop-2-ynyloxy-1H-quinazolin-2-one | COC=1C=C(C=C(C1)OC)CCN1C(N=C(C2=CC(=CC=C12)OCC#C)C1=CC=C(C=C1)C(C)C)=O | C30H30N2O4
